US08912200B2
Step 14: 5-(2-Amino-5-ethynylpyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxylic acid (XVII)
Ethyl 5-{2-amino-5-[(trimethylsilyl)ethynyl]pyrimidin-4-yl}-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxylate (466 mg, 0.8 mmol) was treated with a 1.5 M solution of potassium hydroxide in 95% EtOH (5.33 mL, 8 mmol) and stirred at 50° C. overnight. After cooling, the residue was concentrated, dissolved in water and washed with DCM. The aqueous layer was acidified until pH<1 with the addition of 2 N HCl and extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4 and the solvent evaporated under vacuum to obtain the title compound as an orange oil (367 mg, 95%).

reactant | Ethyl 5-{2-amino-5-[(trimethylsilyl)ethynyl]pyrimidin-4-yl}-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxylate | 0.8 mmol, 466 mg | NC1=NC=C(C(=N1)C1=CC(=C(N1COCC[Si](C)(C)C)C1=C(C=CC(=C1)Cl)C)C(=O)OCC)C#C[Si](C)(C)C | C29H39ClN4O3Si2
reactant | potassium hydroxide | [OH-].[K+]
reactant | EtOH | 8 mmol, 5.33 mL | CCO | C2H6O
product | 5-(2-Amino-5-ethynylpyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxylic acid | 367 mg, 95% | NC1=NC=C(C(=N1)C1=CC(=C(N1COCC[Si](C)(C)C)C1=C(C=CC(=C1)Cl)C)C(=O)O)C#C | C24H27ClN4O3Si
